US07157487B2
In methylene chloride (10 ml) was dissolved tert-butyl (4-(2-benzoxazolyl)amino-3-methylphenyl)acetate (1.17 g, 3.46 mmol). To the resulting solution was added trifluoroacetic acid (10 ml). The resulting mixture was stirred at room temperature for 20 hours. The reaction mixture was poured in ice water, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform/methanol (60:1 to 50:1, v/v) eluate fractions, (4-(2-benzoxazolyl)amino-3-methylphenyl)acetic acid (924 mg, 95%) was obtained as a pale yellow solid.

reactant | tert-butyl (4-(2-benzoxazolyl)amino-3-methylphenyl)acetate | 3.46 mmol, 1.17 g | O1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)OC(C)(C)C)C | C20H22N2O3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-(2-benzoxazolyl)amino-3-methylphenyl)acetic acid | 924 mg, 95% | O1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)O)C | C16H14N2O3
